US05250542
t-butoxycarbonyl- glycine (3 g), ethylamine.HCl (1.39 g), TEA (1.72 g), Hobt (2.3 g) and dry DMF (100 ml) were combined and DCC (3.5 g) was added. The mixture was stirred for three days at room temperature under nitrogen, then filtered and evaporated to dryness. 6 g of material was recovered. This material was subjected to column chromatography eluting with a gradient of ethyl acetate to ethyl acetate/methanol (1:1) providing 4.01 g of (CH3)3COC(O)NHCH2C(O)NHCH2CH3.

reactant | t-butoxycarbonyl- glycine | 3 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | ethylamine | C(C)N | C2H7N
reactant | HCl | 1.39 g | Cl | ClH
reactant | DCC | 3.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (CH3)3COC(O)NHCH2C(O)NHCH2CH3 | 4.01 g | C(C)(C)(C)OC(=O)NCC(=O)NCC | C9H18N2O3
